US05411977
A mixture of 0.30 g (1.00 mmol)3-(4-carboxyphenyl)-3-mercapto-N-phenylpropenamide and 50 mL methylene chloride was stirred at room temperature. Added was 0.25 g (1.00 mmol) iodine followed by 0.2 mL (excess) triethylamine and the mixture stirred for one hour. Solvent was evaporated and 250 mL ethyl acetate added. The mixture was washed with three 100 mL portions of water. The organic layer was dried, filtered and solvent was evaporated from the filtrate. The resulting solid was triturated in absolute ethanol and filtered to dryness to provide 0.16 g (0.54 mmol, 54%)5-(4-carboxyphenyl)-N-phenyl-4-isothiazolin-3-one as a pale, yellow powder, mp=260-261° C. NMR (d6 -DMSO/TMS): 7.08 (s, 1H), 7.39-8.07 (m, 9H), 13.30 (bs, 1H). IR (KBr): 1678, 1652. Mass spectrum (CI): M/z=298.0 (M+H)+.

reactant | 3-(4-carboxyphenyl)-3-mercapto-N-phenylpropenamide | 1.00 mmol, 0.30 g | C(=O)(O)C1=CC=C(C=C1)C(=CC(=O)NC1=CC=CC=C1)S | C16H13NO3S
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
reactant | iodine | 1.00 mmol, 0.25 g | II | I2
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | 5-(4-carboxyphenyl)-N-phenyl-4-isothiazolin-3-one | 0.54 mmol, 0.16 g, 54% | C(=O)(O)C1=CC=C(C=C1)C1=CC(N(S1)C1=CC=CC=C1)=O | C16H11NO3S
